US09079878B2
2-{3-[(tert-Butylsulfinyl)amino]oxetan-3-yl}propanoic acid
Methyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate (Preparation 33, 1.25 g, 4.746 mmol) was stirred in methanol (15 mL) and a 1M aqueous solution of sodium hydroxide (15 mL) for 3 hours at room temperature. The reaction was concentrated in vacuo and partitioned between diethyl ether and water. The pH of the aqueous layer was adjusted to pH3 with potassium hydrogen sulphate and extracted with dichloromethane. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound that was used without purification in the next step.

reactant | Methyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate | 4.746 mmol, 1.25 g | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)OC)C | C11H21NO4S
reactant | sodium hydroxide | 15 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 2-{3-[(tert-Butylsulfinyl)amino]oxetan-3-yl}propanoic acid | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)O)C | C10H19NO4S
